### PR TITLE
[Merged by Bors] - chore: golf proofs

### PR DESCRIPTION
**Pull request by euprunin**
The goal of this PR is to decrease the number of times lemmas are called explicitly (replacing calls to lemmas with calls to tactics). Any decrease in compilation time is a welcome side effect, although it is not a primary objective.

Trace profiling results (differences <30 ms considered measurement noise):
* `AlgebraicGeometry.AffineSpace.SpecIso_hom_appTop`: 627 ms before, 385 ms after  🎉
* `AlgebraicGeometry.AffineSpace.reindex_comp`: unchanged 🎉
* `Polynomial.content_eq_zero_iff`: unchanged 🎉
* `Polynomial.mem_image_comap_C_basicOpen`: 1219 ms before, 797 ms after  🎉
* `IsClosed.isClopenable`: unchanged 🎉

Profiled using `set_option trace.profiler true in`.

This PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 1]
```diff
@@ -234,14 +234,9 @@ lemma SpecIso_hom_appTop (R : CommRingCat.{max u v}) :
...
-    Scheme.Spec_map, Quiver.Hom.unop_op, TopologicalSpace.Opens.map_top, Scheme.Hom.comp_app,
-    isoOfIsAffine_hom_appTop, Scheme.ΓSpecIso_naturality_assoc]
-  congr 1
-  ext : 1
-  apply ringHom_ext'
-  · ext; simp
-  · simp
+  ext i
+  simp [SpecIso]
+
```
Comment (harahu) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:239]: This newline looks accidental.

File: Mathlib/RingTheory/Polynomial/Content.lean [hunk 2]
```diff
@@ -150,12 +150,9 @@ theorem content_monomial {r : R} {k : ℕ} : content (monomial k r) = normalize
 theorem content_eq_zero_iff {p : R[X]} : content p = 0 ↔ p = 0 := by
   rw [content, Finset.gcd_eq_zero_iff]
   constructor <;> intro h
-  · ext n
-    by_cases h0 : n ∈ p.support
-    · rw [h n h0, coeff_zero]
-    · rw [mem_support_iff] at h0
-      push_neg at h0
-      simp [h0]
+  · simp only [mem_support_iff] at h
```
Comment (urkud) [inline Mathlib/RingTheory/Polynomial/Content.lean]: Does it work without this `simp` call?

Comment (euprunin) [reply Mathlib/RingTheory/Polynomial/Content.lean]: Yes, thanks!

File: Mathlib/AlgebraicGeometry/AffineSpace.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:239]: Thanks!

**Review by j-loreaux — COMMENTED** [review]
bors merge
